US04008066
12.4 g of potassium carbonate and 0.5 ml of water are added to a solution of 14,5 g of 2,6-dimethylanilinoacetic acid amide in 150 ml of methyl ethyl ketone and 7.15 ml of chloroacetyl chloride are added dropwise thereto with stirring. The temperature rises in the process to 39° C and CO2 is evolved. The reaction mixture is stirred for 3 hours at room temperature, filtered and concentrated in vacuo to dryness. The crystalline residue is recrystallised from ethyl acetate to yield 6.3 g of N-chloroacetyl-N-(2,6-dimethylphenyl)-amino-acetamide (m.p. 135°-137° C).

reactant | potassium carbonate | 12.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.5 ml | O | H2O
reactant | 2,6-dimethylanilinoacetic acid amide | 14,5 g | CC1=C(NCC(=O)N)C(=CC=C1)C | C10H14N2O
reactant | CO2 | C(=O)=O | CO2
reactant | chloroacetyl chloride | 7.15 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | methyl ethyl ketone | 150 ml | C(C)C(=O)C | C4H8O
product | N-chloroacetyl-N-(2,6-dimethylphenyl)-amino-acetamide | 6.3 g | ClCC(=O)N(C(CN)=O)C1=C(C=CC=C1C)C | C12H15ClN2O2
